US07592453B2
N-((1R,2S)-2-{[(3aR*,4R*,9bR*)-4-(3-Thienyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclopentyl)benzamide
TFA (1 ml) was added to tert-butyl (3aR*,4R*,9bR*)-4-(3-thienyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1-carboxylate (178 mg, 0.5 mmol), and the mixture was stirred at room temperature for 3 min. Ice was added to the reaction solution, the mixture was basified with 8N aqueous sodium hydroxide solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried (over anhydrous MgSO4), and the solvent was evaporated under reduced pressure. The obtained residue was dissolved in tetrahydrofuran (3 ml), and (1S,2R)-2-(benzoylamino)cyclopentanecarboxylic acid (117 mg, 0.5 mmol) and triethylamine (101 mg, 1.0 mmol) were added. DEPC (82 mg, 0.5 mmol) was added at 0° C. and the mixture was stirred at room temperature for 30 min. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with 6% aqueous sodium hydrogen carbonate solution and saturated brine, dried (over anhydrous MgSO4), and the solvent was evaporated under reduced pressure. The residue was subjected to column chromatography using silica gel (30 g), and eluted with hexane-ethyl acetate (5:1-2:1, v/v) to give the title compound (104 mg, 44%) as a colorless powder.

reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl (3aR*,4R*,9bR*)-4-(3-thienyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1-carboxylate | 0.5 mmol, 178 mg | S1C=C(C=C1)[C@@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2C(=O)OC(C)(C)C | C20H24N2O2S
reactant | sodium hydroxide | 8N | [OH-].[Na+]
reactant | (1S,2R)-2-(benzoylamino)cyclopentanecarboxylic acid | 0.5 mmol, 117 mg | C(C1=CC=CC=C1)(=O)N[C@H]1[C@H](CCC1)C(=O)O | C13H15NO3
reactant | triethylamine | 1.0 mmol, 101 mg | C(C)N(CC)CC | C6H15N
reactant | DEPC | 0.5 mmol, 82 mg | CCOC(=O)OC(=O)OCC | C6H10O5
solvent | Water | O | H2O
product | N-((1R,2S)-2-{[(3aR*,4R*,9bR*)-4-(3-Thienyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclopentyl)benzamide | 104 mg, 44% | S1C=C(C=C1)[C@@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2C(=O)[C@@H]2[C@@H](CCC2)NC(C2=CC=CC=C2)=O | C28H29N3O2S
